US04229519
EXAMPLE 6--Synthesis of Trichloromethylcarbonyloxyethylmethacrylate
Hydroxyethylmethacrylate (13.0 g) was placed in a 250 ml, three-necked, round-bottomed flask, fitted with a stirrer, air condenser and two dropping funnels, as well as a thermometer. The apparatus was placed in an ice/salt freezing bath. Dichloroethane (100 ml) was added, followed by the simultaneous dropwise addition of triethylamine (10.1 g) and trichloroacetyl chloride (18.2 g). During the addition the temperature was not allowed to rise above 2° C. After the addition was complete, the mixture was stirred for a further 6 hours, during this time the temperature rose gradually to room temperature. The mixture stood overnight, and the precipitated salt was filtered off, and the residue was washed thoroughly with dichloroethane. The washings and the filtrate were combined and the solvent was removed on a rotary evaporator. The residue still contained some solid. It was dissolved in ether, the ether solution was washed with water (3 times). The solution was then dried (MgSO4), filtered, and the solvent was removed under vacuum. The residue was distilled under high vacuum, collecting the fraction, boiling between 84°-90° C./0.1 mm (16 g).

reactant | Hydroxyethylmethacrylate | 13.0 g | OCCOC(C(=C)C)=O | C6H10O3
reactant | Dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
reactant | trichloroacetyl chloride | 18.2 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
product | Trichloromethylcarbonyloxyethylmethacrylate | ClC(C(=O)OCCOC(C(=C)C)=O)(Cl)Cl | C8H9Cl3O4
